US04994460
1-[3-(4-Fluorophenylthio)propyl]-4-(5-fluoro-2-pyrimidinyl) piperazine
A mixture of 4-(5-fluoro-2-pyrimidinyl)piperazine (1.58 g, 8.67 mmol), 1-bromo-3-(4-fluorophenylthio)propane (2.16 g, 8.67 mmol), triethylamine (1.33 mL, 9.53 mmol) and KI (1.58 g, 9.52 mmol) in MeCN (45 mL) was refluxed under N2 atm. for 18 h, then cooled at 23° C. and concentrated under reduced pressure. The residue was solubilized in EtOAc (400 mL) and the resulting organic solution was washed with water (2×40 mL), dried (MgSO4) and concentrated to dryness. The crude material (3.0 g) was purified on a silica gel pad (3.4×8.5 cm) using a mixture of 50%-100% EtOAc in hexane. Appropriate fractions were combined and concentrated leaving 2.64 g (87%) mp 68°-70° C. Recrystallization from EtOH afforded an analytical sample, mp 70°-1° C.; 1H NMR (CDCl3, 200 MHz) δ: 1.6-1.9 (m, 2H), 2.2-2.7 (m, 6H), 2.92 (t, J=7 Hz, 2H), 3.6-3.9 (m, 4H), 6.9-7.1 (m, 2H), 7.3-7.5 (m, 2H), 8.17 (s, 2H); IR (KBr) ν: 1609, 1552, 1500, 1490 cm-1 ;

reactant | 4-(5-fluoro-2-pyrimidinyl)piperazine | 8.67 mmol, 1.58 g | FC=1C=NC(=NC1)N1CCNCC1 | C8H11FN4
reactant | 1-bromo-3-(4-fluorophenylthio)propane | 8.67 mmol, 2.16 g | BrCCCSC1=CC=C(C=C1)F | C9H10BrFS
reactant | triethylamine | 9.53 mmol, 1.33 mL | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | MeCN | 45 mL | CC#N | C2H3N
product | 1-[3-(4-Fluorophenylthio)propyl]-4-(5-fluoro-2-pyrimidinyl) piperazine | FC1=CC=C(C=C1)SCCCN1CCN(CC1)C1=NC=C(C=N1)F | C17H20F2N4S
